US07491718B2
2,2-dimethyl-7-nitro-3,4-dihydro-1(2H)-naphthalenone
A mixture of 7-nitro 1-tetralone (1.91 g, 10 mmol) in 15 mL of THF was cooled to −78° C., treated dropwise with 2M lithium diisopropylamine (15 mL, 30 mmol), stirred at −78° C. for 15 minutes, treated with methyl iodide (3.11 mL, 50 mmol), stirred at −78° C. for 10 minutes, warmed to room temperature, and stirred overnight. The mixture was quenched with 10% ammonium chloride and treated with ethyl acetate. The organic phase was washed with brine, dried (Na2SO4), filtered, and concentrated under reduced pressure. The crude product was purified by silica gel column chromatography eluting with 10% ethyl acetate in n-hexane to provide the desired product. MS (ESI(−)) m/e 218 (M−H)−; 1H NMR (300 MHz, DMSO-d6) δ 8.56 (d, 1H), 8.34-8.38 (d, 1H), 7.67 (d, 1H), 3.11 (t, 2H), 1.99 (t, 2H), 1.16 (s, 6H).

reactant | 7-nitro 1-tetralone | 10 mmol, 1.91 g | [N+](=O)([O-])C1=CC=C2CCCC(C2=C1)=O | C10H9NO3
reactant | lithium diisopropylamine | 30 mmol, 2M, 15 mL | C(C)(C)NC(C)C.[Li]
reactant | methyl iodide | 50 mmol, 3.11 mL | CI | CH3I
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | 2,2-dimethyl-7-nitro-3,4-dihydro-1(2H)-naphthalenone | CC1(C(C2=CC(=CC=C2CC1)[N+](=O)[O-])=O)C | C12H13NO3
